US08017602B2
Preparation 13 (R)—N-(2,2-Dimethoxyethyl)hexan-2-amine
2,2-Dimethoxyacetaldehyde (7.54 mL) was added to a solution of (R)-hexan-2-amine (5.06 g) in methanol (20 mL) and the mixture stirred at ambient temperature for 5 h. A slurry of 10% palladium on carbon (200 mg) in methanol (5 mL) was added and the mixture hydrogenated at 5 bar for 16 h, then filtered and concentrated in vacuo to afford the sub-titled compound as a colourless liquid (9.22 g). 1H NMR (400 MHz, CDCl3) δ 4.46 (t, J=5.5 Hz, 1H), 3.39 (s, 6H), 2.72 (ddd, J=31.1, 11.9, 5.6 Hz, 2H), 2.60 (sextet, J=6.0 Hz, 1H), 1.36-1.24 (m, 6H), 1.04 (d, J=6.2 Hz, 3H), 0.90 (t, J=6.9 Hz, 3H)

reactant | 2,2-Dimethoxyacetaldehyde | 7.54 mL | COC(C=O)OC | C4H8O3
reactant | (R)-hexan-2-amine | 5.06 g | C[C@H](CCCC)N | C6H15N
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | (R)—N-(2,2-Dimethoxyethyl)hexan-2-amine | 9.22 g | COC(CN[C@H](C)CCCC)OC | C10H23NO2
